US07199147B2
Lithium aluminum hydride (107 mg, 2.60 mmol) was added to a solution of N3-benzyl-N1-(1H-indazol-5-yl)-N3-methyl-β-alaninamide (200 mg, 0.973 mmol) in tetrahydrofuran (30 ml) at 0° C., and the resulting mixture was refluxed for one and a half hours. Then, the reaction solution was cooled to 0° C. and a mixture of tetrahydrofuran (10 ml) and water (10 ml) was added thereto, followed by filtration. The filtrate was concentrated and the resulting residue was diluted with chloroform and washed with a 1N-aqueous sodium hydroxide solution and then a saturated aqueous sodium chloride solution. The organic layer was dried over potassium carbonate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=20/1) to obtain N1-benzyl-N3-(1H-indazol-5-yl)-N1-methyl-1,3-propanediamine (138 mg, 72%).

reactant | Lithium aluminum hydride | 2.60 mmol, 107 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N3-benzyl-N1-(1H-indazol-5-yl)-N3-methyl-β-alaninamide | 0.973 mmol, 200 mg | C(C1=CC=CC=C1)N(CCC(=O)NC=1C=C2C=NNC2=CC1)C | C18H20N4O
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N1-benzyl-N3-(1H-indazol-5-yl)-N1-methyl-1,3-propanediamine | 138 mg, 72% | C(C1=CC=CC=C1)N(CCCNC=1C=C2C=NNC2=CC1)C | C18H22N4
